Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't want to be here"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Per admission note from Dr. ___ on ___:

"
     Ms. ___ is a ___ with history of depression who was
brought to the ED by EMS after a friend called ___ reporting 
that
the patient had written a suicide note. The 4 page hand-written
letter accompanied the patient to the ED, the contents of which
are significant for suicidal ideation. 
     On approach, patient stated "I want my discharge paperwork
and I want to go home". Discussed process of ___ and
safety assessment, and she agreed to participate in an 
interview.
Reports that she has been struggling with depression for many
years and that "things have been hard lately" but denies 
suicidal
ideation and denies wanting to die. She states that she wrote 
the
letter as part of a "therapeutic exercise" which is a regular
part of her outpatient treatment (has a psychiatrist and
therapist in ___. She states that the friend who called ___
is one of her three roommates. Patient reports that she has been
packing in preparation for returning home to ___ this
weekend (where her parents live). She stated that this friend
"wanted something from me" and was "going through all of my
things" when he found the letter and mistook it for a suicide
note. When asked to elaborate on what this friend wanted or why
he was going through the patient's belongings, she states "I
don't know". 
     Patient reports that she has experienced suicidal thoughts
in the past. She attended a ___ at ___ ___ years ago in the
setting of depression and suicidal thoughts s/p a traumatic
experience, and says this treatment was helpful. She denies that
she has had suicidal thoughts or feelings of hopelessness
recently. She states that she has been living in ___ for some
years studying to obtain her PhD in ___ literature at ___. She is now quitting her PhD program and planning to 
move
back to her parents in ___, ___. When asked why she is
quitting the program, she asked if I was getting my PhD. In
response to the negative, she said "well it isn't f****** easy!"
and did not elaborate further. She reports that she is planning
to re-establish care with a therapist in ___ who treated
her many years ago.

COLLATERAL
Source: ___, friend (___):

     Mr. ___ reports that he has known the patient for
several years. The previously were in a romantic partnership, 
but
remained close friends after their relationship ended. He states
that he and the patient had a minor argument one week ago and
that they have been speaking less since that time. Over the past
few days, he noticed that she appeared to be "struggling". 
Today,
he states he picked the patient up from work and she seemed
"angry and upset". He states that earlier in the day, the 
patient
had a "falling out" with someone whom she considered her "last
friend in ___. At home, Mr. ___ states that he continued
to approach the patient to try and help her / ask her what was
going on. He states the patient became frustrated and "threw a
letter at me". When he saw the contents of the letter, he became
acutely concerned for the patient's safety and called a suicide
crisis line. The operator of the line instructed him to call ___
if he was worried about the patient's safety, so he did. "I feel
really conflicted about it. I just didn't know what to do."
"

In the ED, patient continued to iterate that she did not want to
be here. Per nursing documentation, patient ripping bedsheets
into small pieces, refusing food, sobbing in bed. Requested an
emergency court hearing.

Upon admission to the unit, patient is withdrawn during the
interview, responding to most questions by nodding or shaking 
her
head or responding with one-word answers. She states that she 
has
been admitted "against her will," and wants to leave. States 
that
this is all a misunderstanding and asks this author to speak 
with
her outpatient providers to clarify the circumstances 
surrounding
her admission (however, patient refusing to sign all documents,
so a written ROI was not obtained.) 

Patient states that the last couple weeks have been stressful
because of her academic work but she did not identify any
specific stressors. Denies any neurovegetative symptoms in the
last several weeks, states that her mood has been poor but that
this is a chronic issue for her. Endorses anhedonia. However, 
she
states that she has been regularly seeing her psychiatrist and
therapist and that she never misses doses of her medications
which do help her. Notably, she has only seen her current
psychiatrist once.

Patient states that her roommate "made a mistake" by calling 911
after finding the note while going through her apartment. She
notes that they have been in conflict over the last couple weeks
but is unwilling or unable to describe the precise nature of the
conflict beyond noting that "we shouldn't be living together... 
I
lent him money... he was a jerk." 

A copy of the patient's note is in the chart, and contains 
themes
of anger, hopelessness, and pain. She apologizes to several
family members, noting "I had nothing to live for" and "I leave
behind nothing." She specifically identifies this as her 
"suicide
note," and signs her name and ___ at the end.

She denies that the note is actually a suicide note, describing
it instead as a "cathartic writing exercise." When asked why she
specifically picked writing this kind of note for catharsis, she
was unable to provide a clear answer. She reiterates that she is
not suicidal.

This author spoke with her therapist, ___ 
(___)
who stated that during their ___ appointment there was no
evidence of suicidality. Their visits typically involve work
related to self-regulation, self-esteem, coping skills when she
feels overwhelmed. Academic concerns are a regular theme for 
her.
She expressed some concern that the patient did not reach out to
her prior to writing the note, as she had offered the patient an
appointment yesterday if she needed it.

REVIEW OF SYSTEMS:

Positive as per HPI negative for:
 ---Depression: thoughts of death/SI, loss of appetite/weight
changes, poor concentration, psychomotor agitation or
retardation.
 ---Anxiety: intrusive thoughts, avoidance, phobias, panic.
 ---Mania: distractibility, erratic/risky behavior, grandiosity,
flight of ideas, increased activity, decreased need for sleep, 
or
talkativeness/pressured speech.  
 ---Psychosis: auditory or visual hallucinations, or delusions 
of
reference, paranoia, thought insertion/broadcasting/withdrawal.
 
Medical:
-Denies fatigue, fever, chills, nightsweats, headache,
focal numbness, focal weakness, cough, SOB, CP, palpitations,
abdominal pain, nausea, vomiting, diarrhea, constipation, rash,
skin changes, joint pain, muscle pain, edema, bruising, 
bleeding.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:

[Extracted from Dr, ___ ___ ED Initial Psychiatry
Consult note, reviewed with patient, and updated as 
appropriate.]

Hospitalizations: None. Reports admission to ___ at ___ ___
years ago.
Current treaters and treatment: Psychiatrist Dr. ___
at ___ ___ Therapist Dr. ___ in ___ (___).
Medication and ECT trials: Sertraline, bupropion, fluoxetine.
Self-injury: Denies.
Harm to others: Denies.
Access to weapons: Denies.

 PAST MEDICAL HISTORY:
- Asthma

PCP: 
Name: ___. 
Location: ___, ___. 
Address: ___, ___ 
Phone: ___ 

 
Social History:
___
Family History:
Denies.
 
Physical Exam:
Admission Physical Exam:

VITAL SIGNS:

 T 98.6, HR 62, BP 124/79, RR 16, SpO2 97 on RA, 64.1 kg

 EXAM:

General:
 -HEENT: Moist mucous membranes, oropharynx clear, supple neck. 
No scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
 bilaterally.  VFF to confrontation.
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
 strength in upper and lower distributions, bilaterally. Patient
refused to smile.
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline

 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 3+ and symmetrical throughout
 Coordination: Normal on finger to nose test, no intention 
tremor
 noted
 -Gait: Good initiation.  Narrow-based, normal stride and arm
 swing.

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: MOYb with 0 errors
 -Orientation: Oriented to person, time, place, situation
 -Executive function (go-no go, Luria, trails, FAS): Not tested
 -Memory: ___ registration, ___ recall after 5 ___
 grossly intact
 -Fund of knowledge: Consistent with education; intact to last 3
 presidents
 -Calculations: 7 quarters = "$1.75"
 -Abstraction: Interprets "the grass is always greener on the
 other side" as "to others it seems better over there"
 -Visuospatial: Not assessed
 -Language: Native ___ speaker, no paraphasic errors,
 appropriate to conversation

Mental Status:
 -Appearance: woman appearing stated age, fair grooming, wearing
hospital gown, in no apparent distress
 -Behavior: Sitting in chair, avoids eye contact, global
psychomotor slowing noted. Responds to most questions with 
single
words or shaking/nodding her head.
 -Attitude: Withdrawn, frustrated.
 -Mood: "I wish I wasn't here"
 -Affect: Mood-congruent, restricted, dysphoric
 -Speech: Somewhat slowed, flattened tone, decreased amount of
speech
 -Thought process: Linear, coherent, goal-oriented, no loose
 associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
 internal stimuli
 -Insight: Limited
 -Judgment: Poor

Discharge Physical Exam:

Vitals:
___ 0800 Temp: 98.1 PO BP: 106/72 HR: 75 O2 sat: 98% 
___ 0129 RASS: -1 Pain Score: Sleeping 

Mental Status:
Appearance: ___ year old Caucasian woman appearing stated age,
dirty blonde hair tied up into a knot bun, wearing hoodie and
sweat pants, not in acute distress, well groomed
facial expression: friendly, smiling on approach
build: WNL
Behavior: engaging, cooperative
Eye contact: direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect: "OK", stable, no angry outbursts
Thought Process/content: reality oriented, goal directed,  
denies
SI/HI, denies AH/VH/delusions
Intellectual Functioning: fair concentration
Oriented: x4
Memory: grossly intact
insight: fair
Judgment: fair

 
Pertinent Results:
___ 09:08PM   GLUCOSE-83 UREA N-11 CREAT-0.8 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-26 ANION GAP-9*
___ 09:08PM   estGFR-Using this
___ 09:08PM   HCG-<5
___ 09:08PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 09:08PM   WBC-7.0 RBC-4.17 HGB-13.5 HCT-40.4 MCV-97 
MCH-32.4* MCHC-33.4 RDW-11.9 RDWSD-42.5
___ 09:08PM   NEUTS-49.1 ___ MONOS-8.5 EOS-2.0 
BASOS-0.9 IM ___ AbsNeut-3.45 AbsLymp-2.75 AbsMono-0.60 
AbsEos-0.14 AbsBaso-0.06
___ 09:08PM   PLT COUNT-269
 
Brief Hospital Course:
#. Legal/Safety:
Patient was admitted to ___ on ___, was offered to 
sign in voluntarily which she declined. She was admitted on 
S12b. She requested an emergency hearing; Notice of Rights was 
offered to the patient which she declined to sign, and emergency 
court hearing paperwork was immediately completed and faxed to 
the legal department. The court denied the request for an 
emergency hearing after reviewing the records based on the 
request not alleging/substantiating any abuse/misuse of the 12b 
admission procedure. The patient remained on 15 minute checks, 
had access to monitored sharps, and was unit restricted due to 
concerns for ongoing elevated risk for harm to self with limited 
insight regarding the suicide note and reasons for admission. 
She remained with good behavioral control throughout the 
hospitalization and did not require physical/chemical 
restraints.

#. Unspecified depressive disorder: 
At the time of admission, patient's presentation was notable for 
profound lack of insight regarding the events leading to ED 
presentation and admission. She minimized the seriousness of the 
suicide note she composed and continued to maintain that her 
roommate calling EMS was a mistake, despite the suicide note 
including explicit details of stating farewell to those around 
her, apologizing for her planned suicide, and having her 
lifespan recorded with the current year marking the end of her 
life. She endorsed depressed mood, anhedonia, poor 
concentration, disturbed sleep, anxiety, feelings of 
hopelessness/helplessness regarding her academic 
responsibilities, and on exam was noted to have psychomotor 
retardation, slowed speech, and dysthymic affect. 

As the treatment team continued to work on rapport-building and 
history gathering (including speaking with her sister and 
roommate with her consent) were concerning for cluster B traits 
including dependency, impulsivity, fear of abandonment, 
intense/volatile relationships with her friends/roommate, low 
self-esteem, hypersensitivity to criticism, and feelings of 
emptiness. She was provided with ongoing individual therapy 
sessions with psychoeducation, and was recommended to have her 
pharmacologic regimen be modified to decrease bupropion due to 
concerns that this was affecting her concentration and 
increasing her anxiety/impulsivity, especially in the setting of 
her feeling overwhelmed with her academic responsibilities. The 
team discussed this plan with her outpatient psychiatrist (with 
her permission) who was on-board, and after the risks/benefits 
of switching from bupropion XR 300mg PO daily to bupropion SR 
150mg PO daily was discussed, the patient communicated 
understanding of the risks/benefits and agreed with this plan. 
She tolerated the regimen of bupropion 150mg SR Po daily with 
continuing fluoxetine 60mg PO daily (her home dose) without side 
effects and by the day of discharge was with notably improved 
mood, euthymic affect, and with reported less anxiety.

By time of discharge, patient continued to decline attending 
group therapy sessions despite ongoing encouragement from the 
treatment team. She did continue to engage superficially with 
the treatment goals and decisions in working towards a safe 
discharge. By the day of discharge, she had consistently denied 
suicidal ideation, was reporting future/goal oriented thought 
about plans to take time off from her program and return to her 
family in ___, continue to work with her outpatient 
providers to continue current medication regimen/optimize as 
indicated, and continue working on coping skills with her 
individual therapist, who was also contacted by the treatment 
team and provided with an update regarding progress and plans 
(with patient's consent).

#. Collateral:
With the patient's consent, the treatment team spoke with the 
patient's sister and roommate. They both stated that while the 
patient has a history of being dependent on the roommate and 
that his recent commitments to work/dating may have decreased 
his availability to spend time with the patient as being a major 
stressor, they were not concerned that the patient would attempt 
to partake in any self-injurious behaviors at this time. They 
both described the suicide letter as part of her therapeutic 
journaling method, and that she would be unlikely to 
follow-through with any suicide plan. They reported that the 
patient does not have any history of suicide attempts or 
parasuicidal behaviors. 

With the patient's consent, the treatment team also spoke with 
her individual therapist and psychiatrist, who were updated on 
the presenting history, signs, and symptoms, and also provided 
with an update of the treatment goals and progress. They were 
both on-board with the plan described above, and they both felt 
that by the time of discharge, the patient would be stable 
enough for ongoing care in the outpatient setting.

The team also contacted the patient's mother with her consent; 
mother also reported not having concerns that the patient would 
participate in suicidal behavioral and that the family is 
planning to have the patient stay at home with them and 
encourage her to take some time off from her academic duties.

#. Risk assessment:
At the time of admission, the patient was determined to be at an 
elevated risk of harm to self based on the above documented 
presenting signs/symptoms, as well as static factors including 
chronic mental illness (depression), Caucasian race, single 
marital status, likely presence of a concurrent personality 
disorder, family history of suicide attempt (half brother 
completed suicide). The following modifiable factors were 
addressed during this hospitalization: suicidal ideation 
(patient was provided ongoing psychoeducation, pharmacotherapy 
adjusted, and by time of discharge was consistently denying any 
passive/active sucidal ideation), agitation/recklessness 
(acutely stabilized in terms of safety/behavior on the unit with 
ongoing monitoring and 15 minute checks, by time of discharge 
was consistently without behavioral issues or safety concerns), 
limited coping skills (was provided with psychoeducation and 
therapy principles in both individual and group therapy 
sessions, but patient continued to decline to attend group 
therapy sessions), impulsivity (bupropion decreased due to 
concerns it may be worsening anxiety/impulsivity), and polarized 
thinking (attempted to have patient be engaged in DBT 
principles, but she continued to decline attending groups). She 
is being discharged with protective factors which include 
help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, reality testing ability, no history of 
substance use disorder, and strong social supports. 

#. Prognosis:
The prognosis remains fair at this time, given that patient is 
willing to continue with care in the outpatient setting with her 
individual therapist and psychiatrist. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 300 mg PO DAILY 
2. FLUoxetine 60 mg PO DAILY 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 150 mg PO DAILY  
2.  FLUoxetine 60 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent severe no psychotic 
features
Anxiety nos
Cluster B traits
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___